US04281000
7-(3-Furyl)pyrazolo[1,5-a]pyrimidine-3-methanol
As described for Example 15 7-(3-furyl)pyrazolo-[1,5-a]pyrimidine-3-carboxylic acid is reduced with diborane to give the product of the example.

reactant | 7-(3-furyl)pyrazolo-[1,5-a]pyrimidine-3-carboxylic acid | O1C=C(C=C1)C1=CC=NC=2N1N=CC2C(=O)O | C11H7N3O3
reactant | diborane | B#B | B2
product | 7-(3-Furyl)pyrazolo[1,5-a]pyrimidine-3-methanol | O1C=C(C=C1)C1=CC=NC=2N1N=CC2CO | C11H9N3O2
